US07750003B2
Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.368 mL, 2.93 mmol) was added to 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline (1.153 g, 2.67 mmol) and sodium hydrogen carbonate (0.336 g, 4.00 mmol) in dioxane (20 mL) at RT. The resulting slurry was stirred at RT for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic solution was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 20%-70% ethyl acetate in isohexane, to give the desired material as a near colourless solid (1.42 g).

reactant | Phenyl chloroformate | 2.93 mmol, 0.368 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | 2.67 mmol, 1.153 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)(C)C)C1=CC=C(N)C=C1 | C22H32N4O3S
reactant | sodium hydrogen carbonate | 4.00 mmol, 0.336 g | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]phenyl]carbamate | 1.42 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)(C)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C29H36N4O5S
